US03991061
Refluxing 1 part of 3-methoxy-2-azanaphthalene-7-acetic acid in 25 parts by volume of 16% hydrobromic acid followed by extraction with methylene chloride and isolation provides 3-hydroxy-2-azanaphthalene-7-acetic acid, having the following formula ##SPC21##

reactant | 3-methoxy-2-azanaphthalene-7-acetic acid | COC=1N=CC2=CC(=CC=C2C1)CC(=O)O | C12H11NO3
reactant | hydrobromic acid | Br | BrH
product | 3-hydroxy-2-azanaphthalene-7-acetic acid | OC=1N=CC2=CC(=CC=C2C1)CC(=O)O | C11H9NO3
